US05990102
N-(6-(2,4-Difluorophenyl)hexyl)-(4-benzylthio-2-oxoazetidin-1-yl)acetamide
Sequential treatment of (4-benzylthio-2-oxoazetidin-1-yl)acetic acid with 1-cyclohexyl-3-(2-morpholinethyl)carbodiimide metho-p-toluenesulfonate and 6-(2,4-difluorophenyl)hexylamine in dimethyl formamide by the method described for Example 29 gave the title compound as a colourless solid, m.p. 65-66° C., in 73% yield 1H NMR δ (CDCl3) 1.3-1.36 (4H, m, 4×CH2), 1.50-1.60 (4H, m, 4×CH2), 2.58 (2H, t, J=7.6 Hz, PhCH2), 2.93, 2.97 (1H, dd, J=2.4, 15.6 Hz, H3), 3.23 (2H, m, NHCH2), 3.35, 3.39 (1H, dd, J=5.2, 15.2 Hz, H3), 3.57, 3.71 (each 1H, d, J=16.4 Hz, NCH2), 3.81 (2H, s, SOCH2), 4.80 (1H, m, H4), 6.02 (1H, m, HH), 6.76-7.33 (8H, m, 2Ph--H); νc=o 1774 cm-1Found: C, 64.5; H, 6.3; N, 6.5%, C24H28F2N2O2S requires: C, 64.6; H, 6.3; N, 6.3%

reactant | (4-benzylthio-2-oxoazetidin-1-yl)acetic acid | C(C1=CC=CC=C1)SC1CC(N1CC(=O)O)=O | C12H13NO3S
reactant | p-toluenesulfonate | CC=1C=CC(=CC1)S(=O)(=O)O | C7H8O3S
reactant | 6-(2,4-difluorophenyl)hexylamine | FC1=C(C=CC(=C1)F)CCCCCCN | C12H17F2N
solvent | dimethyl formamide | CN(C=O)C | C3H7NO
product | N-(6-(2,4-Difluorophenyl)hexyl)-(4-benzylthio-2-oxoazetidin-1-yl)acetamide | 73% yield | FC1=C(C=CC(=C1)F)CCCCCCNC(CN1C(CC1SCC1=CC=CC=C1)=O)=O | C24H28F2N2O2S
